US06846832B2
b) 2-Bromomethyl-4-methoxy-benzoic Acid Methyl Ester
A mixture of 4-methoxy-2-methyl-benzoic acid methyl ester (20 g, 111 mmol), N-bromosuccinimide (20.7 g, 117 mmol) and dibenzoylperoxide (0.54 g, 2 mmol) in CCl4 (150 mL) was irradiated with a 300 W lamp. The reaction maintains a steady reflux and after 4.5 h, the lamp was removed and the mixture cooled to 5° C. The mixture was then filtered, the filtrate evaporated and the residue purified twice by chromatography (SiO2, Heptane:Diethyl ether: 95:5 to 85:15) to afford the title product (16.6 g, 58%) as a white solid. MS m/e=258.1 (M−H+).

reactant | 4-methoxy-2-methyl-benzoic acid methyl ester | 111 mmol, 20 g | COC(C1=C(C=C(C=C1)OC)C)=O | C10H12O3
reactant | N-bromosuccinimide | 117 mmol, 20.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoylperoxide | 2 mmol, 0.54 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-4-methoxy-benzoic Acid Methyl Ester | 16.6 g, 58% | COC(C1=C(C=C(C=C1)OC)CBr)=O | C10H11BrO3
